US09399623B2
6-Chloro-2-(3,3-difluoro-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexylmethyl)-amide (91)
The title compound was synthesized according to the procedure described in example 1 using 2,6-Dichloro-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclo hexyl methyl)-amide, and 3,3-Difluoro-pyrrolidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.68-8.71 (bs, 1H), 7.89 (d, J=9.2 Hz, 1H), 7.55-7.62 (m, 2H), 7.03 (d, J=9.3 Hz, 1H), 4.67 (s, 1H), 3.96-4.03 (m, 2H), 3.76-3.80 (m, 2H), 3.37-3.39 (m, 2H), 2.54-2.61 (m, 2H), 1.88-2.08 (m, 4H), 1.68-1.76 (m, 4H). m/z: 460.2 [M+H]+

reactant | 2,6-Dichloro-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclo hexyl methyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O2
reactant | 3,3-Difluoro-pyrrolidine | FC1(CNCC1)F | C4H7F2N
product | 6-Chloro-2-(3,3-difluoro-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexylmethyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CC(CC1)(F)F)F | C21H22ClF4N3O2
